US07985755B2
5-[1-(Toluene-3-sulfonyl)piperidin-4-ylmethoxy]quinazoline-2,4-diamine (Example-032).
The sulfonamide was obtained by reacting 5-(piperidin-4-ylmethoxy)quinazoline-2,4-diamine (50 mg; 0.18 mmol) and m-toluenesulfonyl chloride (71 mg; 0.37 mmol) via Method AA to yield 131 mg. (83% yield). 1HNMR (400 MHz, DMSO-d6) δ 7.54 (m, 4H), 7.47 (t, J=8.4 Hz, 1H), 7.10 (br s, 2H), 6.75 (d, J=8.4 Hz, 1H), 6.49 (d, J=8.0 Hz, 1H), 5.93 (br s, 2H), 3.95 (d, J=6.0 Hz, 2H), 3.69 (br d, J=11.6 Hz, 2H), 2.42 (s, 3H), 2.23 (t, J=12.0 Hz, 2H), 1.86 (m, 3H), 1.36 (m, 2H). MS m/z (ESI) 428 (M+H)+.

reactant | 5-(piperidin-4-ylmethoxy)quinazoline-2,4-diamine | 0.18 mmol, 50 mg | N1CCC(CC1)COC1=C2C(=NC(=NC2=CC=C1)N)N | C14H19N5O
reactant | m-toluenesulfonyl chloride | 0.37 mmol, 71 mg | C1(=CC(=CC=C1)S(=O)(=O)Cl)C | C7H7ClO2S
product | 5-[1-(Toluene-3-sulfonyl)piperidin-4-ylmethoxy]quinazoline-2,4-diamine | 83% yield | C1(=CC(=CC=C1)S(=O)(=O)N1CCC(CC1)COC1=C2C(=NC(=NC2=CC=C1)N)N)C | C21H25N5O3S
